US06084120
At room temperature, NaOCH3 (335 mg, 6.19 mmol) was added to a solution of 1,3-dioxan-2-ylmethyltributylphosphoniumbromide (C. Spangler; R. McCoy, Synthetic communications, 18, 51, (1988)) (5.17 ml, 1 M in DMF, 5.71 mmol) and 4,5-dimethoxy-2-nitro-benzaldehyde (1.25 g, 4.76 mmol) in DMF (20 ml). After heating the mixture at 50° for overnight, the mixture was poured over water, and extracted with ether, washed with brine and dried over MgSO4. The solvent was evaporated and the residue was dissolved in THF (100 ml) and treated with 2 N HCl (50 ml). After stirring the mixture at room temperature for 2 h, the THF was evaporated, and the yellow solid was filtered, and suspended in ether/ethylacetate 4:1. The suspension stirred at room temperature for 1 h, filtered and washed with ether to afford (E)-3-(4,5-dimethoxy-2-nitro-phenyl)-propenal (624 mg, 55%) as a yellow solid, m.p. 103-105°. IR (KBr): 1689, 1605 cm-1. MS (EI): 237 (M).

reactant | NaOCH3 | 6.19 mmol, 335 mg | O([Na])C
reactant | 1,3-dioxan-2-ylmethyltributylphosphoniumbromide | 5.71 mmol, 1 M, 5.17 ml | [Br-].O1C(OCCC1)C[P+](CCCC)(CCCC)CCCC
reactant | 4,5-dimethoxy-2-nitro-benzaldehyde | 4.76 mmol, 1.25 g | COC1=CC(=C(C=O)C=C1OC)[N+](=O)[O-] | C9H9NO5
reactant | water | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | (E)-3-(4,5-dimethoxy-2-nitro-phenyl)-propenal | 624 mg, 55% | COC1=CC(=C(C=C1OC)/C=C/C=O)[N+](=O)[O-] | C11H11NO5
